US07989444B2
10-Methyl-7-(3-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}propyl)-2-(trifluoromethyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride
The title compound was prepared in analogy to General Procedure 1 from 10-methyl-2-(trifluoromethyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine (120 mg) was reacted with 5-{5-[(3-chloropropyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline (212 mg) and was obtained as a colourless slightly hygroscopic solid (115 mg).

reactant | 10-methyl-2-(trifluoromethyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine | 120 mg | CC1=C2C(=CC=3CCNCCC31)N=C(O2)C(F)(F)F | C13H13F3N2O
reactant | 5-{5-[(3-chloropropyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline | 212 mg | ClCCCSC=1N(C(=NN1)C1=C2C=CC(=NC2=CC=C1)C)C | C16H17ClN4S
product | 10-Methyl-7-(3-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}propyl)-2-(trifluoromethyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride | Cl.CC1=C2C(=CC=3CCN(CCC31)CCCSC3=NN=C(N3C)C3=C1C=CC(=NC1=CC=C3)C)N=C(O2)C(F)(F)F | InChI=1S/C29H29F3N6OS.ClH/c1-17-8-9-21-22(6-4-7-23(21)33-17)26-35-36-28(37(26)3)40-15-5-12-38-13-10-19-16-24-25(18(2)20(19)11-14-38)39-27(34-24)29(30,31)32;/h4,6-9,16H,5,10-15H2,1-3H3;1H
